US05300647
1-Carbamoyloxy-4-benzoyloxy-2,2,6,6-tetramethylpiperidine
A solution of 6.7 ml of 12 N HCl in 10 ml of water is added dropwise over 10 minutes with cooling below 0° C. to a suspension of 20.8 g (75 mmol) of 1-hydroxy-4-benzoyloxy-2,2,6,6-tetramethylpiperidine, 75 ml of methanol, and 25 ml of water in a nitrogen atmosphere. A clear solution resulted. A solution of 6.1 g (75 mmol) of potassium cyanate in 25 ml of water is added dropwise over 30 minutes. The reaction temperature is maintained at 0-5° C. during the cyanate addition. The reaction mixture is stirred 30 minutes at ambient temperature, then filtered. The precipitate is washed with water, then dissolved in 200 ml of toluene. Residual water is removed by azeotropic distillation. The toluene solution is then cooled to yield 19.4 g (81%) of a white crystalline solid, m.p. 148-49° C.

reactant | HCl | 12 N, 6.7 ml | Cl | ClH
reactant | 1-hydroxy-4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 75 mmol, 20.8 g | ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C16H23NO3
reactant | potassium cyanate | 75 mmol, 6.1 g | [O-]C#N.[K+]
reactant | cyanate | [O-]C#N
solvent | water | 10 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | methanol | 75 ml | CO | CH4O
product | 1-Carbamoyloxy-4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 19.4 g, 81% | C(N)(=O)ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C17H24N2O4
